US08202858B2
(4-Aminomethyl-3-methyl-phenyl)-(2-methyl-4,5-dihydro-1-oxa-3,6-diaza-benzo[e]azulen-6-yl)-methanone Hydrochloride
[2-Methyl-4-(2-methyl-4,5-dihydro-1-oxa-3,6-diaza-benzo[e]azulene-6-carbonyl)-benzyl]-carbamic acid tert-butyl ester from Example E119.1 (62 mg, 0.14 mmol) in methanol (0.5 ml) was reacted with 4N HCl/dioxan using an analogous procedure to that described for Example E4.2 to yield the title compound (53 mg, 100%).

reactant | [2-Methyl-4-(2-methyl-4,5-dihydro-1-oxa-3,6-diaza-benzo[e]azulene-6-carbonyl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)C(=O)N1C2=C(C=3OC(=NC3CC1)C)C=CC=C2)C)=O | C26H29N3O4
reactant | HCl dioxan | 4N | Cl.O1CCOCC1
solvent | methanol | 0.5 ml | CO | CH4O
product | (4-Aminomethyl-3-methyl-phenyl)-(2-methyl-4,5-dihydro-1-oxa-3,6-diaza-benzo[e]azulen-6-yl)-methanone Hydrochloride | 53 mg, 100% | Cl.NCC1=C(C=C(C=C1)C(=O)N1C2=C(C=3OC(=NC3CC1)C)C=CC=C2)C | InChI=1S/C21H21N3O2.ClH/c1-13-11-15(7-8-16(13)12-22)21(25)24-10-9-18-20(26-14(2)23-18)17-5-3-4-6-19(17)24;/h3-8,11H,9-10,12,22H2,1-2H3;1H
